US09193935B2
18.2: 5-(4-(4-Methoxyphenyl)-3-methylbut-1-enyl)benzo[d][1,3]dioxole
Potassium t-pentylat (1.7 M in toluene, 6.5 mL, 11.0 mmol, 1.1 equiv.) was added to a solution of (benzo[d][1,3]dioxol-5-ylmethyl)triphenylphosphonium bromide (4.77 g, 10.0 mmol, 1.0 equiv.) in THF (20 mL) at 25° C. After the dark red suspension was stirred at 25° C. for 15 min, 3-(4-methoxyphenyl)-2-methylpropanal (1.78 g, 10.0 mmol, 1.0 equiv.) in THF (10 mL) was added, and the mixture was stirred at 70° C. for 1.5 h. After addition of 20% aq. AcOH-solution (10 mL) at 25° C., the aqueous layer was extracted with MTBE, the combined organic phases were dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (hexanes/EtOAc 19:1) to yield 2.20 g (74%) of the title compound as a yellow oil.

reactant | (benzo[d][1,3]dioxol-5-ylmethyl)triphenylphosphonium bromide | 10.0 mmol, 4.77 g, 1.0 equiv. | [Br-].O1COC2=C1C=CC(=C2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | 3-(4-methoxyphenyl)-2-methylpropanal | 10.0 mmol, 1.78 g, 1.0 equiv. | COC1=CC=C(C=C1)CC(C=O)C | C11H14O2
reactant | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(4-(4-Methoxyphenyl)-3-methylbut-1-enyl)benzo[d][1,3]dioxole | 2.20 g, 74% | COC1=CC=C(C=C1)CC(C=CC1=CC2=C(OCO2)C=C1)C | C19H20O3
